US09422267B2
To a stirred solution of 6-fluoropyridin-3-amine (2.58 g, 23.01 mmol) in THF (40 mL) was added a 2M solution of isopropylmagnesium chloride in THF (11.5 mL, 23 mmol) at 0° C. After 20 min of stirring, to this was added a solution of methyl 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxylate (2.2 g, 5.75 mmol) in THF (10 mL) at 0° C. The reaction mixture was further stirred at RT for 2 h. After completion of reaction it was quenched with saturated ammonium chloride and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layer was treated with brine, dried over Na2SO4 and evaporated under reduced pressure to obtain a crude product, which was purified by column chromatography on 100-200 mesh silica gel using MeOH-DCM (1:10) as eluent to obtain as racemate (0.6 g, 23% yield). The enantiomers were separated by chiral HPLC to afford (R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)-N-(6-fluoropyridin-3-yl)pyrrolidine-2-carboxamide (130 mg), and its (S) enantiomer. 1H NMR (400 MHz, CDCl3, freebase) δ (ppm): 0.60-0.77 (m, 2H), 0.85-0.98 (m, 2H), 1.77-1.90 (m, 6H), 1.91-2.20 (m, 3H), 2.38-2.43 (m, 2H), 2.60-2.80 (m, 3H), 3.59-3.78 (m, 2H), 4.71 (d, 1H), 6.17 (s, 1H), 6.80-6.83 (m, 1H), 6.91 (s, 1H), 7.95 (s, 1H), 8.20 (brs, 1H), 10.90 (brs, 1H).

reactant | 6-fluoropyridin-3-amine | 23.01 mmol, 2.58 g | FC1=CC=C(C=N1)N | C5H5FN2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | methyl 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxylate | 5.75 mmol, 2.2 g | C1(CC1)C1=NNC(=C1)NC1=NC(=NC=2CCCCC12)N1C(CCC1)C(=O)OC | C20H26N6O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 23 mmol, 11.5 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)-N-(6-fluoropyridin-3-yl)pyrrolidine-2-carboxamide | 130 mg, 23% yield | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=2CCCCC12)N1[C@H](CCC1)C(=O)NC=1C=NC(=CC1)F | C24H27FN8O
